US07157447B2
1-(2-Bromo-5-fluorophenyl)-1H-1,2,3-triazole.
1-(2-Bromo-5-fluorophenyl)-4-(trimethylsilyl)-1H-1,2,3-triazole (0.800 g, 2.55 mmol) was dissolved in THF (10 mL) and tetrabutylammonium fluoride (2.8 mL, 2.80 mmol, 1.0 M in THF) was added dropwise and the reaction mixture was stirred at 25° C. for 4 h. The resulting mixture was concentrated in vacuo and the residue was purified with a Biotage system on silica gel with hexanes:ethyl acetate (8:2 to 7:3) gradient as the eluent to afford the title compound as a white solid (0.36 g, 58% yield): 1H NMR (400 MHz, CDCl3) δ ppm: 8.06 (1H, d, J=1.0 Hz), 7.90 (1H, d, J=1.3 Hz), 7.76 (1H, dd, J=8.8, 5.3 Hz), 7.39 (1H, dd, J=8.3, 2.8 Hz), 7.19 (1H, ddd, J=8.9, 7.5, 3.0 Hz), LCMS (+ESI, M+H+) m/z 242/244.

reactant | 1-(2-Bromo-5-fluorophenyl)-4-(trimethylsilyl)-1H-1,2,3-triazole | 2.55 mmol, 0.800 g | BrC1=C(C=C(C=C1)F)N1N=NC(=C1)[Si](C)(C)C | C11H13BrFN3Si
reactant | tetrabutylammonium fluoride | 2.80 mmol, 1.0 M, 2.8 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-Bromo-5-fluorophenyl)-1H-1,2,3-triazole | 0.36 g, 58% yield | BrC1=C(C=C(C=C1)F)N1N=NC=C1 | C8H5BrFN3
